### PR TITLE
[Merged by Bors] - feat: add `peel` tactic

### PR DESCRIPTION
**Pull request by j-loreaux**
As requested on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Logical.20congruence.20or.20weakening.20tactic).

Given `p q : ℕ → Prop`, `h : ∀ x, p x`, and a goal `⊢ : ∀ x, q x`, the tactic `peel h with h' x` will introduce `x : ℕ`, `h' : p x` into the context and the new goal will be `⊢ q x`. This works with `∃`, as well as `∀ᶠ` and `∃ᶠ`, and it can even be applied to a sequence of quantifiers.

For a more complex example, given a hypothesis and a goal:
```
h : ∀ ε > (0 : ℝ), ∃ N : ℕ, ∀ n ≥ N, 1 / (n + 1 : ℝ) < ε
⊢ ∀ ε > (0 : ℝ), ∃ N : ℕ, ∀ n ≥ N, 1 / (n + 1 : ℝ) ≤ ε
```
(which differ only in `<`/`≤`), applying `peel h with h_peel ε hε N n hn` will yield a tactic state:
```
h : ∀ ε > (0 : ℝ), ∃ N : ℕ, ∀ n ≥ N, 1 / (n + 1 : ℝ) < ε
ε : ℝ
hε : 0 < ε
N n : ℕ
hn : N ≤ n
h_peel : 1 / (n + 1 : ℝ) < ε
⊢ 1 / (n + 1 : ℝ) ≤ ε
```
and the goal can be closed with `exact h_peel.le`.

Co-authored-by: Kyle Miller <kmill31415@gmail.com>

---

Note: I am completely open to renaming the tactic if a consensus is reached about a better name.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by robertylewis** [comment]
This looks awesome!

Could you add some tests that involve type class arguments?

**Comment by robertylewis** [comment]
@j-loreaux your examples are exactly what I meant, thanks :smile: 

@PatrickMassot mentioned that typeclass-heavy examples have gotten him into trouble in similar situations. To confirm, Patrick, do Jireh's new tests cover what you were thinking?

**Comment by PatrickMassot** [comment]
@robertylewis , I think you are referring to the widget issue that was pretty different. 

@j-loreaux I think that what is missing are tests that would catch a missing `withContext`. All your test have `peel` at the very beginning. We need examples where there are `intro` before `peel` and several goals at the time when `peel` is called.

File: Mathlib/Tactic/Peel.lean [hunk 1]
```diff
@@ -0,0 +1,215 @@
...
+```
+and the goal can be closed with `exact h_peel.le`.
+Note that in this example, `h` and the goal are logically equivalent statements, but `peel`
+*cannot* be immediately applied to show that the goal implies `h`.
+
+`peel` can take an optional numeric argument prior to the supplied hypothesis; in which case it will
+autoname the introduced variables, but they may be inaccessible. However, in this case the user must
+still introduce a single name such as `with h_peel` for the new hypothesis.
+
+In addition, `peel` supports goals of the form `(∀ x, p x) ↔ ∀ x, q x`, or likewise for any
```
Comment (kmill) [inline Mathlib/Tactic/Peel.lean:57]: Maybe `peel` should mention that the `congr!` tactic can also apply to such goals, but `peel` has the benefit that it only applies to quantifiers (so accounting and predictability are easier for example).

File: Mathlib/Tactic/Peel.lean [hunk 2]
```diff
@@ -0,0 +1,215 @@
...
+private lemma Filter.frequently_congr {α : Type*} {f : Filter α} {p : α → Prop} {q : α → Prop}
+    (h : ∀ᶠ (x : α) in f, p x ↔ q x) : (∃ᶠ (x : α) in f, p x) ↔ ∃ᶠ (x : α) in f, q x := by
+  constructor
+  all_goals refine (Frequently.mp · (h.mono fun _ => ?_))
+  exacts [Iff.mp, Iff.mpr]
+
+/-- Peel off a single quantifier from an `↔`. -/
+def peelIffAux : TacticM Unit := withMainContext do
+  evalTactic (← `(tactic|
+    apply_rules [forall_congr', exists_congr, Filter.eventually_congr,
```
Comment (kmill) [inline Mathlib/Tactic/Peel.lean:178]: `apply_rules` iteratively applies the lemmas, right? If you want to do a single iteration, you might have to write `first | apply forall_congr' | apply exists_congr | apply ...`

It would be good to have a useful error message if none apply. With the `first` tactic, you can have the last tactic be `fail "error message"`.

File: Mathlib/Tactic/Peel.lean [hunk 3]
```diff
@@ -0,0 +1,215 @@
...
+      Filter.eventually_of_forall, Filter.frequently_congr]))
+
+/-- Peel off `n` quantifiers from an `↔`. -/
+def peelNumIff (n : Nat) : TacticM Unit := withMainContext do
+  match n with
+    | 0 => pure ()
+    | n + 1 =>
+      peelIffAux
+      let goal ← getMainGoal
+      let (_, new_goal) ← goal.intro1P
```
Comment (kmill) [inline Mathlib/Tactic/Peel.lean:188]: I'm not sure `intro1P` is right -- won't that use the binder name from the applied lemma? And even if it used a binder name from the goal, you have to choose between using the LHS and the RHS binder. I think we should use `goal.introN 1` here. I believe you could also do ``goal.intro `_``, which isn't exactly documented. If that works, then you can combine `peelNumIff` and `peelArgsIff` by passing an array with `n` copies of `_`.

File: Mathlib/Tactic/Peel.lean [hunk 4]
```diff
@@ -0,0 +1,215 @@
...
+    | n + 2 =>
+      let fvar? ← liftMetaTacticAux (peelQuantifier · e (n' := `this))
+      if let some fvarId := fvar? then
+        peelNum (.fvar fvarId) (n + 1)
+        let mvarId ← (← getMainGoal).clear fvarId
+        replaceMainGoal [mvarId]
+
+/-- Given a list `l` of names, this continues to peel quantifiers off of the expression `e` and
+the main goal and introduces variables with the provided names until the list of names is exhausted.
+Note: the first name in the list is used for the name of the expression `e` with quantifiers
```
Comment (kmill) [inline Mathlib/Tactic/Peel.lean:155]: I would suggest having `peelArgs` take another argument for this purpose, with type `Option Name`. This will simplify the `match` logic.

File: Mathlib/Tactic/Peel.lean [hunk 5]
```diff
@@ -0,0 +1,215 @@
...
+optionally provided names. If, for example, `goal : ∃ y : α, q y`, the metavariable returned has
+type `q x` where `x : α` has been introduced into the context.
+
+The special casing for `e`/`goal` pairs of type `r ∧ p` and `r ∧ q` exists primarily to deal with
+quantified statements like `∃ δ > (0 : ℝ), q δ`. -/
+def peelQuantifier (goal : MVarId) (e : Expr) (n : Option Name := none) (n' : Option Name := none) :
+    MetaM (Option FVarId × List MVarId) := goal.withContext do
+  let ty ← whnfR (← inferType e)
+  let target ← whnfR (← goal.getType)
+  let freshName ← mkFreshUserName `h_peel
```
Comment (kmill) [inline Mathlib/Tactic/Peel.lean:88]: Every case does `n'.getD freshName`. What you could instead do is
```suggestion
  let n' ← n'.getDM (mkFreshUserName `h_peel)
```
and then use just `n'`.

File: Mathlib/Tactic/Peel.lean [hunk 6]
```diff
@@ -0,0 +1,215 @@
...
+  unless (← isProp ty) && (← isProp target) do
+    return (.none, [goal])
```
Comment (kmill) [inline Mathlib/Tactic/Peel.lean:90]: Unless I'm misreading this, you can use `none` with out the `.`, right?
```suggestion
    return (none, [goal])
```

File: Mathlib/Tactic/Peel.lean [hunk 7]
```diff
@@ -0,0 +1,215 @@
...
+      let all_imp ← mkFreshExprMVar <| ← withoutModifyingState <| withLocalDecl n₂ c t₂ fun x => do
+        mkForallFVars #[x] (← mkArrow (b₁.instantiate1 x) (b₂.instantiate1 x))
+      let event_forall ← mkAppOptM ``Filter.eventually_of_forall #[none, none, f₂, all_imp]
+      goal.assign (← mkAppM ``Filter.Frequently.mp #[e, event_forall])
+      let (fvars, new_goal) ← all_imp.mvarId!.introN 2 [n.getD n₂, n'.getD freshName]
+      return (fvars[1]!, [new_goal])
+    | _, _ =>
+      match ty, target with
+        | .forallE _ t₁ b₁ _, .forallE n₂ t₂ b₂ c => do
+          unless ← isDefEq (← whnfR t₁) (← whnfR t₂) do
```
Comment (kmill) [inline Mathlib/Tactic/Peel.lean:130]: This should be equivalent:
```suggestion
          unless ← isDefEq t₁ t₂ do
```

File: Mathlib/Tactic/Peel.lean [hunk 8]
```diff
@@ -0,0 +1,215 @@
...
+  let ty ← whnfR (← inferType e)
+  let target ← whnfR (← goal.getType)
+  let freshName ← mkFreshUserName `h_peel
+  unless (← isProp ty) && (← isProp target) do
+    return (.none, [goal])
+  match ty.getAppFnArgs, target.getAppFnArgs with
+    | (``Exists, #[_, .lam _ t₁ b₁ _]), (``Exists, #[_, .lam n₂ t₂ b₂ c]) =>
+      unless ← isDefEq t₁ t₂ do
+        return (.none, [goal])
+      let all_imp ← mkFreshExprMVar <| ← withoutModifyingState <| withLocalDecl n₂ c t₂ fun x => do
```
Comment (kmill) [inline Mathlib/Tactic/Peel.lean:95]: Is `withoutModifyingState` necessary here?

**Review by kmill — COMMENTED** [review]
Here are a few comments

File: Mathlib/Tactic/Peel.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Tactic/Peel.lean:57]: good point. I added the `↔` support primarily for pedagogical purposes, but that's good documentation.

File: Mathlib/Tactic/Peel.lean (hunk 8 above)
Comment (j-loreaux) [reply Mathlib/Tactic/Peel.lean:95]: hmmm... no, but it definitely was in an earlier version of my code. Thanks!

File: Mathlib/Tactic/Peel.lean (hunk 4 above)
Comment (j-loreaux) [reply Mathlib/Tactic/Peel.lean:157]: I think it doesn't simplify the `match` logic very much, and it adds increased cost to the processing of the `withArgs`, so at best the complexity is only trading places. You're welcome to show me I'm wrong though! :smile:

File: Mathlib/Tactic/Peel.lean [hunk 9]
```diff
@@ -0,0 +1,218 @@
...
+
+The special casing for `e`/`goal` pairs of type `r ∧ p` and `r ∧ q` exists primarily to deal with
+quantified statements like `∃ δ > (0 : ℝ), q δ`. -/
+def peelQuantifier (goal : MVarId) (e : Expr) (n : Option Name := none) (n' : Option Name := none) :
+    MetaM (Option FVarId × List MVarId) := goal.withContext do
+  let ty ← whnfR (← inferType e)
+  let target ← whnfR (← goal.getType)
+  let n' ← n'.getDM (mkFreshUserName `h_peel)
+  unless (← isProp ty) && (← isProp target) do
+    logError m!"either {← ppExpr ty} or {← ppExpr target} is not a proposition"
```
Comment (kmill) [inline Mathlib/Tactic/Peel.lean:92]: You generally don't need to pretty print anything yourself with `m!` strings.
```suggestion
    logError m!"either {ty} or {target} is not a proposition"
```

**Review by kmill — COMMENTED** [review]
A couple more comments. I'll look into whether my `peelArgs` suggestion improves anything later.

File: Mathlib/Tactic/Peel.lean [hunk 10]
```diff
@@ -0,0 +1,209 @@
...
+
+The special casing for `e`/`goal` pairs of type `r ∧ p` and `r ∧ q` exists primarily to deal with
+quantified statements like `∃ δ > (0 : ℝ), q δ`. -/
+def peelQuantifier (goal : MVarId) (e : Expr) (n : Option Name := none) (n' : Option Name := none) :
+    MetaM (Option FVarId × List MVarId) := goal.withContext do
+  let ty ← whnfR (← inferType e)
+  let target ← whnfR (← goal.getType)
+  let n' ← n'.getDM (mkFreshUserName `h_peel)
+  unless (← isProp ty) && (← isProp target) do
+    throwError m!"either {ty} or {target} is not a proposition"
```
Comment (adomani) [inline Mathlib/Tactic/Peel.lean:90]:
```suggestion
  guard ((← isProp ty) && (← isProp target)) <|>
    throwError m!"either {ty} or {target} is not a proposition"
```
Does this also work?  Does it speed up the compilation, using it systematically for all the `unless` that you use?

Just trying out equivalent changes...

Comment (adomani) [reply Mathlib/Tactic/Peel.lean:90]: Great, thanks for checking and good to know!

**Review by kmill — APPROVED** [review]
Looks good to me

File: test/peel.lean [hunk 11]
```diff
@@ -0,0 +1,267 @@
...
+  · peel 5 h using this.le
+  · intro ε hε
+    peel 3 h (ε / 2) (half_pos hε) using this.trans_lt (half_lt_self hε)
+
+def toInf (f : ℕ → ℕ) : Prop := ∀ m, ∃ n, ∀ n' ≥ n, m ≤ f n'
+
+example (f : ℕ → ℕ) (h : toInf f) : toInf (fun n => 2 * f n) := by
+  peel h with this m n n' h
+  dsimp
+  linarith
```
[the remark this answers is not in the document]
Comment (PatrickMassot) [reply test/peel.lean]: Done

**Comment by PatrickMassot** [comment]
Thanks a lot Jireh and Kyle! This is really great.
bors merge
